US09193719B2
3-(1-(Benzyloxy)-2-methylpropan-2-yl)-1-(5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.41 g, 0.88 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.24 g, 1.14 mmol), and K2CO3 (0.32 g, 2.29 mmol) were suspended in a solution of dioxane (5.0 mL) and water (1.0 mL). The suspension was sonicated and sparged with Ar for 10 min followed by the addition of Pd(PPh3)4 (0.10 g, 0.09 mmol). The reaction mixture was stirred at 85° C. for 12 h, allowed to cool to RT, and suspended between sat. NH4Cl (aq.) (15 mL) and EtOAc (20 mL). The organic phase was collected and the aqueous phase was extracted with EtOAc (3×15 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo to afford an orange oil. The residue was purified by silica gel chromatography (MeOH/DCM) to afford 3-(1-(benzyloxy)-2-methylpropan-2-yl)-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.41 g, 91%) as a viscous, pale yellow oil. 1H NMR (400 MHz, DMSO-d6): δ 11.95 (s, 1H), 8.36 (d, J=5.6 Hz, 1H), 8.26 (s, 1H), 7.96 (s, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 7.31-7.29 (m, 5H), 7.18 (d, J=2.4 Hz, 1H), 6.66 (dd, J=5.7, 2.4 Hz, 1H), 4.49 (s, 2H), 3.83 (s, 3H), 3.50 (s, 2H), 2.33 (s, 3H), 1.27 (s, 6H); MS (ESI) m/z: 512.3 (M+H+).

reactant | 3-(1-(Benzyloxy)-2-methylpropan-2-yl)-1-(5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.88 mmol, 0.41 g | C(C1=CC=CC=C1)OCC(C)(C)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)Cl)C | C24H24ClN5O3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.14 mmol, 0.24 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 2.29 mmol, 0.32 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
catalyst | Pd(PPh3)4 | 0.09 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 1.0 mL | O | H2O
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 3-(1-(benzyloxy)-2-methylpropan-2-yl)-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.41 g, 91% | C(C1=CC=CC=C1)OCC(C)(C)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)C | C28H29N7O3
